US06479623B1
A 2 L round-bottom flask fitted with a mechanical stirrer, condenser and a thermometer was charged with 3,3-bis-(bromomethyl)oxetane (300 g, 1.2 mol), trifluoroethanol (284 g, 2.8 mol), tetrabutylammonium bromide (39.9 g, 0.12 mol) and water (265 mL). The mixture was heated to 85° C. and a 50% aqueous potassium hydroxide solution (672 g, 5.1 mol) was added via an addition funnel over a period of 3 h. The progress of the reaction was monitored by GLC and when greater than 99% of 3,3-bis-(bromomethyl)oxetane was consumed, the reaction mixture was cooled to room temperature and diluted with water (500 mL). The organic phase was separated and washed with 2% aqueous potassium hydroxide solution (500 mL) and water (500 mL). The crude product was then distilled under reduced pressure (bp=103° C./5 mm/Hg) to give 278 g (80%) of greater than 99% pure (GLC) 3,3-bis-(2,2,2-trifluoroethoxymethyl)oxetane, a colorless oil. Spectral analysis revealed that the product prepared by this process was identical with B6-FOX monomer prepared by Procedure A.

reactant | 3,3-bis-(bromomethyl)oxetane | 1.2 mol, 300 g | BrCC1(COC1)CBr | C5H8Br2O
reactant | trifluoroethanol | 2.8 mol, 284 g | C(C(F)(F)F)O | C2H3F3O
reactant | potassium hydroxide | 5.1 mol, 672 g | [OH-].[K+]
catalyst | tetrabutylammonium bromide | 0.12 mol, 39.9 g | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | water | 265 mL | O | H2O
product | 3,3-bis-(2,2,2-trifluoroethoxymethyl)oxetane | FC(COCC1(COC1)COCC(F)(F)F)(F)F | C9H12F6O3
